US07220862B2
7-Methyl-2-(2-trimethylsilanyl-ethanesulfonyl)-2H-indazole-5-carbaldehyde
To a suspension of 7-methylindazole 5-aldehyde (3.0 g, 18.7 mmol) in methylene chloride (150 mL) was added triethylamine (7.83 mL, 56.2 mL, 3 equiv) followed by dropwise addition of neat 2-trimethylsilanyl-ethanesulfonyl chloride (5.60 g, 28.1 mmol, 1.5 equiv). The mixture gradually became homogeneous and was allowed to stir at room temperature for 16 h. The solution was concentrated to a minimum amount of methylene chloride and then subjected to flash column chromatography on silica gel (1:4 ethyl acetate/hexanes) to give 4.7 g (77%) of the product as a pale yellow solid. 1H-NMR (CDCl3, 300 MHz) δ 9.98 (s, 1H), 8.77 (s, 1H), 8.09 (s, 1H), 7.64 (s, 1H), 3.64–3.58 (m, 2H), 2.65 (s, 3H), 0.88–0.82 (m, 2H), 0.01 (s, 9H).

reactant | 7-methylindazole 5-aldehyde | 18.7 mmol, 3.0 g | CC=1C=C(C=C2C=NNC12)C=O | C9H8N2O
reactant | triethylamine | 7.83 mL, 3 equiv | C(C)N(CC)CC | C6H15N
reactant | 2-trimethylsilanyl-ethanesulfonyl chloride | 28.1 mmol, 5.60 g, 1.5 equiv | C[Si](CCS(=O)(=O)Cl)(C)C | C5H13ClO2SSi
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 7-Methyl-2-(2-trimethylsilanyl-ethanesulfonyl)-2H-indazole-5-carbaldehyde | 4.7 g, 77% | CC1=CC(=CC2=CN(N=C12)S(=O)(=O)CC[Si](C)(C)C)C=O | C14H20N2O3SSi
